US07652015B2
4-(5-Amino-6-methyl-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
Stir a mixture of 4-(6-methyl-5-nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (2.69 g, 8.0 mmol) and 10% palladium on carbon (1.0 g) in ethanol (60 mL) at 22° C. under hydrogen for 2 hours. Filter off the palladium catalyst. Concentrate the filtrate to give a colorless oil. Subject residue to silica gel chromatography eluting with hexanes and ethyl acetate to give the title compound. (2.19 g, 89% yield). MS(ES): m/z=308.2 [M+H].

reactant | 4-(6-methyl-5-nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 8.0 mmol, 2.69 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC(=C(C=C1)[N+](=O)[O-])C | C16H23N3O5
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-(5-Amino-6-methyl-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 89% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC(=C(C=C1)N)C | C16H25N3O3
